US07511035B2
(b) 4-(2-aminoethyl)-1-(phenylmethyl)-4-piperidinol
To a solution of LiAlH4 (1.8 g, 0.048 mmol) in THF (40 mL) at 0° C. was added dropwise via addition funnel a solution of 2-[4-hydroxy-1-(phenylmethyl)-4-piperidinyl]acetamide (4 g, 0.016 mmol) in THF (40 mL). The solution warmed to 25° C. and was then heated to reflux for 12 h. After cooling, the solution was then carefully quenched with a saturated solution of sodium potassium tartrate and extracted several times with DCM. The combined organic fractions were dried (Na2SO4) and the resulting residue was used directly without further purification: LCMS (ES) m/e 236 (M+H)+.

reactant | LiAlH4 | 0.048 mmol, 1.8 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 2-[4-hydroxy-1-(phenylmethyl)-4-piperidinyl]acetamide | 0.016 mmol, 4 g | OC1(CCN(CC1)CC1=CC=CC=C1)CC(=O)N | C14H20N2O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-(2-aminoethyl)-1-(phenylmethyl)-4-piperidinol | NCCC1(CCN(CC1)CC1=CC=CC=C1)O | C14H22N2O
